US05037834
2-(3-Pyridyl)amino-4,5,6,7-tetrahydrothiazolo[5,4-c]-pyridine
2-(3-Pyridyl)amino-4-(2-aminoethyl)thiazole (0.50 g, from preceding preparation) and acetic acid (0.19 ml, 3.3 mmol) were dissolved in methanol (23 ml) and treated with formaldehyde (0.19 ml of a 37% aqueous solution, 2.3 mmol). The reaction was allowed to stir at room temperatue for 18 hours, at which point additional formaldehyde (0.02 ml of a 37% aqueous solution, 0.25 mmol) was added. After an additional 2 hours, the reaction mixture was filtered; the filtrate was concentrated in vacuo, dissolved in aqueous base, and extracted with methylene chloride. The organic extracts were dried over sodium sulfate and concentrated to provide the title product (310 mg, 1.3 mmol, 57% yield).

reactant | 2-(3-Pyridyl)amino-4-(2-aminoethyl)thiazole | 0.50 g | N1=CC(=CC=C1)NC=1SC=C(N1)CCN | C10H12N4S
reactant | acetic acid | 3.3 mmol, 0.19 ml | C(C)(=O)O | C2H4O2
reactant | formaldehyde | C=O | CH2O
solvent | methanol | 23 ml | CO | CH4O
product | 2-(3-Pyridyl)amino-4,5,6,7-tetrahydrothiazolo[5,4-c]-pyridine | 1.3 mmol, 310 mg, 57% yield | N1=CC(=CC=C1)NC=1SC=2CNCCC2N1 | C11H12N4S
